US04241053
3.0 g of D-arabinose, 3.6 g of 3-methoxy-n-propyl-amine and 3.0 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 13-(1). 5.0 g of 1-(2-chloroethyl)-3-(3-methoxy-n-propyl)-3-(D-arabinopyranosyl)-urea are thereby obtained as colorless caramel.

reactant | D-arabinose | 3.0 g | O=C[C@@H](O)[C@H](O)[C@H](O)CO | C5H10O5
reactant | 3-methoxy-n-propyl-amine | 3.6 g | COCCCN | C4H11NO
reactant | 2-chloroethyl isocyanate | 3.0 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-(3-methoxy-n-propyl)-3-(D-arabinopyranosyl)-urea | 5.0 g | ClCCNC(=O)N(C1[C@@H](O)[C@H](O)[C@H](O)CO1)CCCOC | C12H23ClN2O6
